US07342118B2
2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {1-[1-(2,2-dimethyl-propyl)-piperidin-4-yl]-1H-imidazol-4-yl}-amide
Following the procedure for Example 81; 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (1-piperidin-4-yl-1H-imidazol-4-yl)-amide was reacted with trimethylacetaldehyde to afford the title compound: C13 NMR (100 MHz, CDCl3) 14.0, 18.8, 27.8, 30.5, 33.3, 33.8, 36.0, 43.1, 53.1, 53.3, 55.9, 69.6, 102.6, 102.9, 103.1, 105.8, 112.3, 112.6, 131.5, 137.6, 138.7, 162.0, 164.4, 169.2; MS 490.3 m/z (M+1).

reactant | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid (1-piperidin-4-yl-1H-imidazol-4-yl)-amide | N1CCC(CC1)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O | C21H27F2N5O2
reactant | trimethylacetaldehyde | CC(C=O)(C)C | C5H10O
product | 2-[2-(3,5-Difluoro-phenyl)-acetylamino]-pentanoic acid {1-[1-(2,2-dimethyl-propyl)-piperidin-4-yl]-1H-imidazol-4-yl}-amide | CC(CN1CCC(CC1)N1C=NC(=C1)NC(C(CCC)NC(CC1=CC(=CC(=C1)F)F)=O)=O)(C)C | C26H37F2N5O2
